US04938793
2-Hydroxymethyl-5-methylpyrimidine was prepared by the reaction of 3-ethoxy-2-methyl acrolein and hydroxyacetamidine hydrochloride following a similar procedure to that described by Kim and McKee (J. Org. Chem., 35, 455 (1970)). Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 2.32 (3H,s); 3.6 (1H,bs); 4.80 (2H,s); 8.54 (2H,s).

reactant | 3-ethoxy-2-methyl acrolein | C(C)OC=C(C=O)C | C6H10O2
reactant | hydroxyacetamidine hydrochloride | Cl.OCC(=N)N
product | 2-Hydroxymethyl-5-methylpyrimidine | OCC1=NC=C(C=N1)C | C6H8N2O
